US05866564
(2S,4S)-4-Mercapto-2-[(3S)-3-(4-nitrobenzyloxycarbonyl)aminopyrrolidin-1-ylcarbonyl]-1-methylpyrrolidine
Following a procedure similar to that described in Preparation 18, but using 1.03 g of (2S,4S)-4-(4-methoxybenzylthio)-1-methyl-2-pyrrolidinecarboxylic acid, 463 mg of pivaloyl chloride and 1.45 g of (3S)-3-(4-nitrobenzyloxycarbonyl)aminopyrrolidine trifluoroacetate, 1.07 g of the title compound were obtained as a powder.

reactant | (2S,4S)-4-(4-methoxybenzylthio)-1-methyl-2-pyrrolidinecarboxylic acid | 1.03 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C)C(=O)O)C=C1 | C14H19NO3S
reactant | pivaloyl chloride | 463 mg | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | (3S)-3-(4-nitrobenzyloxycarbonyl)aminopyrrolidine trifluoroacetate | 1.45 g | FC(C(=O)O)(F)F.[N+](=O)([O-])C1=CC=C(COC(=O)N[C@@H]2CNCC2)C=C1
product | (2S,4S)-4-Mercapto-2-[(3S)-3-(4-nitrobenzyloxycarbonyl)aminopyrrolidin-1-ylcarbonyl]-1-methylpyrrolidine | 1.07 g | S[C@H]1C[C@H](N(C1)C)C(=O)N1C[C@H](CC1)NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C18H24N4O5S
